US08975400B2
4-(2-cyano-4-formylphenoxy)picolinonitrile
To a solution of 2-((2-chloropyridin-4-yl)oxy)-5-formylbenzonitrile (400 mg, 1.55 mmol) and dicyanozinc (182 mg, 1.55 mmol) in N,N-dimethylacetamide (DMA) (4 mL) was added tetrakis(triphenylphosphine)palladium(0) (179 mg, 0.155 mmol). The reaction mixture was sealed in a microwave vial and irradiated with a microwave using initial normal to 100° C. for 1 h and filtered.

reactant | 2-((2-chloropyridin-4-yl)oxy)-5-formylbenzonitrile | 1.55 mmol, 400 mg | ClC1=NC=CC(=C1)OC1=C(C#N)C=C(C=C1)C=O | C13H7ClN2O2
reactant | dicyanozinc | 1.55 mmol, 182 mg | C(#N)[Zn]C#N
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.155 mmol, 179 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-cyano-4-formylphenoxy)picolinonitrile | C(#N)C1=C(OC2=CC(=NC=C2)C#N)C=CC(=C1)C=O | C14H7N3O2
